US06451814B1
4-[4-(2-Aminoethyl)anilino]-N-(4-fluorobenzyl)-1-piperidinecarboxamide formate (0.591 g, 1.42 mmol) was reacted with tert-butyl methylsulfonyl{3-[(2S)oxiranylmethoxy]phenyl]carbamate (0.488 g, 1.42 mmol) according to Procedure G (eluant: 20:1 going to 10:1 chloroform-methanol) to give tert-butyl 3-{[(2S)-3-({4-[(1-{[(4-fluorobenzyl)amino]carbonyl}-4-piperidinyl)amino]phenethyl}amino)-2-hydroxypropyl]oxy}phenyl(methylsulfonyl)carbamate which was dissolved in formic acid and stirred at ambient temperature overnight. The solvent was removed in vacuo and the residue purified by flash chromatography on silica gel Merck-60 (eluant: 5:1 chloroform-methanol) to furnish the title compound (0.1 g, 0.163 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-(4-fluorobenzyl)-1-piperidinecarboxamide formate | 1.42 mmol, 0.591 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCC2=CC=C(C=C2)F)C=C1
reactant | tert-butyl methylsulfonyl{3-[(2S)oxiranylmethoxy]phenyl]carbamate | 1.42 mmol, 0.488 g | CS(=O)(=O)N(C(OC(C)(C)C)=O)C1=CC(=CC=C1)OC[C@H]1OC1 | C15H21NO6S
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | tert-butyl 3-{[(2S)-3-({4-[(1-{[(4-fluorobenzyl)amino]carbonyl}-4-piperidinyl)amino]phenethyl}amino)-2-hydroxypropyl]oxy}phenyl(methylsulfonyl)carbamate | FC1=CC=C(CNC(=O)N2CCC(CC2)NC2=CC=C(CCNC[C@@H](COC=3C=C(C=CC3)N(C(OC(C)(C)C)=O)S(=O)(=O)C)O)C=C2)C=C1 | C36H48FN5O7S
